Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / tramadol
 
Attending: ___.
 
Chief Complaint:
Hypoxia
 
Major Surgical or Invasive Procedure:
___ BRONCHOSCOPY FLEXIBLE, ENDOBRONCHIAL ULTRASOUND, 
TRANSBRONCHIAL NEEDLE ASPIRATION, TRANSBRONCHIAL BIOPSY, 
ENDOBRONCHIAL BIOPSY

 
History of Present Illness:
___ year old woman with history of breast cancer, COPD, previous
smoker (30 pack year history) who initially came in for an EBUS
for an incidentally discovered lymph node, now admitted for
post-procedure monitoring.

Patient reports that she has back pain from compression
fractures, and was prescribed tramadol. Her back pain improved
and she stopped taking tramadol. She had symptoms of tramadol
withdrawal including confusion and paranoia. Her PCP sent her to
the ED for this. While in the ___ ED, she had CT
chest that showed left ___ lung nodule was well as
lymphadenopathy. Follow up PET/CT confirmed several enlarged
mediastinal lymph nodes with increased FDG uptake. 

She was seen in ___ clinic, and underwent an EBUS with lymph node
biopsy with no complications. Following the procedure, she was
noted to be desatting to 86% on room air, improved to 91% on 1L
NC. Received Lasix 10mg x2. A post-procedure x-ray showed no
acute changes. She was admitted to medicine for supportive care
an monitoring. 

On the floor, patient states that her breathing feels "ok" but 
is
limited by her back pain as it is difficult to take in deep
breaths. No chest pain, stomach pain. States her appetite is
good. 

Review of systems:  
(+) Per HPI  
(-) 10 Point review of systems otherwise negative 
 
Past Medical History:
- COPD
- HTN 
- compression fractures
- Remote bilateral breast cancer.  More recently right-sided
disease, ER/PR positive and HER-2/neu negative. For right breast
cancer -  status post wide local excision.  Four cycles of
monotherapy with Taxotere.  ___ years combined adjuvant 
hormonal
therapy completed in ___. Last chemotherapy ___.
- SCLC - diagnosed ___
 
Social History:
___
Family History:
Mother - deceased lung cancer (smoker)
Father - deceased from renal failure
 
Physical Exam:
PHYSICAL EXAM:
=============  
Vital Signs:  97.3, HR 107, BP 114/58, RR 22, 90% 2L
General: Sitting up in bed, Ox3, speaking in full sentences, NAD
HEENT: neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Generally poor air movement, but no wheezes or rhonchi
heard  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: grossly intact

DISCHARGE EXAM
===============
VS:98.1 PO 110 / 65 93 18 95 3L NC 
GENERAL: Pleasant woman, in no distress, lying in bed
comfortably. Speaking in full sentences.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Generally poor air movement, scattered end expiratory
wheezes bilaterally.
ABD: Soft, non-tender, mildly distended, normal bowel sounds.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes.

 
Pertinent Results:
ADMISSION RESULTS
___ 10:05PM BLOOD WBC-12.2* RBC-4.91 Hgb-13.5 Hct-41.6 
MCV-85 MCH-27.5 MCHC-32.5 RDW-14.4 RDWSD-44.3 Plt ___
___ 10:05PM BLOOD Glucose-150* UreaN-20 Creat-1.1 Na-144 
K-3.4 Cl-105 HCO3-26 AnGap-16

DISCHARGE RESULTS:
___ 07:45AM BLOOD ALT-17 AST-27 AlkPhos-68 TotBili-0.3
___ 07:45AM BLOOD WBC-7.0 RBC-4.99 Hgb-13.7 Hct-42.7 MCV-86 
MCH-27.5 MCHC-32.1 RDW-14.6 RDWSD-45.5 Plt ___
___ 07:45AM BLOOD Glucose-96 UreaN-14 Creat-0.7 Na-144 
K-3.9 Cl-105 HCO3-28 AnGap-15

RELEVANT IMAGING:
___ CTA Chest: 
IMPRESSION:  
1.  No evidence pulmonary embolism. 
2.  Mediastinal lymphadenopathy, concerning for metastatic 
disease.  
Comparison with prior imaging for interval change, and clinical 
correlation is advised. 
3.  Small airways inflammation, mucous plugging with probable 
trace aspiration sequelae in the left lower lobe. 
4.  Incompletely characterized left renal lesion.  Correlation 
with prior 
exams is recommended. 

___ Brain MRI: 
1. Two enhancing left parietal lesions measuring 2-3 mm best 
seen on the axial T1 postcontrast images and difficult to 
correlate on the axial MPRAGE images.  Given the clinical 
history these findings raise concern for intraparenchymal 
metastatic disease.  Attention on follow-up examination is 
recommended. 
2. No evidence of acute infarction or intracranial hemorrhage. 
3. Age-appropriate diffuse parenchymal volume loss with 
nonspecific white 
matter signal abnormality, likely a sequela of chronic small 
vessel ischemic disease. 

RELEVANT PATH:
___ FNA:
DIAGNOSIS:
10L lymph node, Fine needle aspiration:
POSITIVE FOR MALIGNANT CELLS.
Small cell carcinoma.
Note: No residual lymph node present.
Cell block has high tumor cellularity.

___ Flow cytology:
FLOW CYTOMETRY REPORT 

FLOW CYTOMETRY IMMUNOPHENOTYPING 
The following tests (antibodies) were performed: Kappa, Lambda, 
and CD antigens 2,3,4,5,7,8,10,11c,19,20,23,34,38,45 and 56.

RESULTS:
10-color analysis with linear side scatter vs. CD45 gating is 
used to evaluate lymphocytes. 

The non-debris cells comprise 55% of total acquired events. 
The viability of the analyzed non-debris events, done by 7-AAD 
is 92%. 
CD45-bright, low side-scatter gated lymphocytes comprise 29% of 
total analyzed events. 
B-cells comprise 15% of lymphoid gated events, are polyclonal, 
and do not express aberrant antigens. 
T cells comprise 73% of lymphoid gated events and express mature 
lineage antigens CD3, CD5, CD2 and CD7. 
T cells have a helper-cytotoxic ratio of 3.2. 
CD56 positive, CD3 negative natural killer cells represent 5% of 
gated lymphocytes. 
A population of CD45 negative and CD56 positive cells is seen 
which raises the possibility of involvement by a non-lymphoid 
neoplasm.

INTERPRETATION
Non-specific T cell predominant lymphoid profile; diagnostic 
immunophenotypic features of involvement by leukemia/lymphoma 
are not seen in this specimen. Correlation with clinical, 
morphologic (see separate cytology reports NG17-___, NG17-___, 
NG17-4772) and other ancillary findings is recommended for 
further characterization. Flow cytometry immunophenotyping may 
not detect all abnormal populations due to topography, sampling 
or artifacts of sample preparation.
 
Brief Hospital Course:
Ms. ___ is a ___ woman with history of breast 
cancer, COPD, tobacco abuse (30 pack year history) who was 
admitted for post-procedure monitoring after EBUS of hilar lymph 
node due to hypoxia, pathology showing small cell lung cancer.

# Small Cell Lung Cancer: Newly diagnosed after PET screening 
for
re-staging of her breast cancer on ___ at ___ 
revealed multiple FDG-avid enlarged mediastinal lymph nodes. 
EBUS of hilar lymph node showed small cell lung cancer. Prelim 
read of brain MRI with two 2-3 mm hyperintensities in L parietal 
lobe concerning for mets. Will get chemo as outpatient under 
outpatient oncologist at ___. 

# Hypoxia s/p EBUS: Patient admitted with hypoxia following her 
EBUS. No pneumothorax or other procedural complications on 
imaging. Likely etiology is volume overload as well as COPD. 
Possible contribution from tracheitis. S/p Levofloxacin for 
tracheitis for 5-day course (Day ___. Continued on 
incentive spirometer. Discharged with home O2.

# Right Otitis Media: Some external extension of erythema. Given 
Levofloxacin as above with cipro otic drops for external 
component.

# Hypertension: Continued home amlodipine.

#CODE: Full, limited trial of life-sustaining treatment
#CONTACT: 
Name of health care proxy: ___ 
Relationship: Sister in law 
Phone number: ___ 
Cell phone: ___ 

TRANSITIONAL ISSUES:
-Pt to initiate chemoradiation with outpatient oncologist Dr. 
___ set up with home O2 due to desaturation to 84% with 
ambulation
-___ MRI brain with 2-3 mm best seen on the axial T1 
postcontrast images were difficult to correlate on the axial 
MPRAGE images, consider repeat brain MRI for staging 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Tiotropium Bromide 1 CAP IH DAILY 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea 

 
Discharge Medications:
1.  Lidocaine 5% Patch 1 PTCH TD QPM 
RX *lidocaine-transparent dressing 4 % Use 1 at night QPM Disp 
#*15 Kit Refills:*0 
2.  LORazepam 0.5 mg PO Q6H:PRN anxiety/insomnia, nausea 
RX *lorazepam [Ativan] 0.5 mg 1 tablet by mouth Q6:PRN Disp #*24 
Tablet Refills:*0 
3.  Simethicone 40-80 mg PO QID:PRN abdominal discomfort 
RX *simethicone [Gas Relief] 80 mg ___ TABLET by mouth four 
times a day Disp #*120 Tablet Refills:*0 
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea  
5.  amLODIPine 10 mg PO DAILY  
6.  Tiotropium Bromide 1 CAP IH DAILY  
7.rolling walker
Diagnosis: small cell lung CA ICD10: C34.90
Prognosis: good
Length of need: 13 months 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Small cell lung cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You recently came in to the hospital for a procedure 
(bronchoscopy and biopsy) that unfortunately showed that you had 
lung cancer. After receiving this procedure, your oxygen 
saturation dropped, and so you were admitted to the hospital for 
observation.

You also had a throat infection and ear infection that were 
treated with antibiotics. 

You are being discharged to receive your chemotherapy at 
___ under the care of your outpatient oncologist. 

It has been a pleasure taking care of you. 

Sincerely, 
Your ___ Oncology team
 
Followup Instructions:
___